US05220042
3 Grams (10.48 mM) of 2,5-dimethoxy-3,6-bis(methoxymethoxy)benzaldehyde was dissolved in 100 ml of benzene, next 1.82 g (1.2 times the equivalent) of Meldrum's acid and 3 ml of triethylamine were added thereto, and the reaction mixture was stirred at room temperature for 5 hours. 200 milliliters of ethyl acetate was added to the reaction mixture, and the organic layer was washed twice with 50 ml of water, then washed three times with a saturated sodium chloride aqueous solution. The organic layer was then dehydrated on anhydrous sodium sulfate and concentrated to yield 4.39 g of 1-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-ylidene)-1-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]methane. Yellow powdery substance.

reactant | 2,5-dimethoxy-3,6-bis(methoxymethoxy)benzaldehyde | 10.48 mM | COC1=C(C=O)C(=C(C=C1OCOC)OC)OCOC | C13H18O7
reactant | Meldrum's acid | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 200 milliliters | C(C)(=O)OCC | C4H8O2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-ylidene)-1-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]methane | 4.39 g | CC1(OC(C(C(O1)=O)=CC1=C(C(=CC(=C1OCOC)OC)OCOC)OC)=O)C | C19H24O10
